US04946863
6-Propylaminocarbonyloxy-N,N-diethyl-1-indanmethylamine (Lu 25-180)
2 g of 6-hydroxy-N,N-diethyl-1-indan-methylamine and 1.5 g of propylisocyanate were refluxed in 25 ml of dry toluene for 16 hours. The reaction mixture was poured into 100 ml of 0.1M acetic acid, and the organic phase was separated. The water phase was made alkaline with dil. NH4OH and extracted with 2×50 ml diethyl ether. The combined organic phases were dried (MgSO4) and the solvent evaporated. The residue was purified by column chromatography yielding 1.1 g of the title compound as an oil.

reactant | 6-hydroxy-N,N-diethyl-1-indan-methylamine | 2 g | OC1=CC=C2CCC(C2=C1)CN(CC)CC | C14H21NO
reactant | propylisocyanate | 1.5 g | C(CC)N=C=O | C4H7NO
reactant | acetic acid | 0.1M, 100 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Propylaminocarbonyloxy-N,N-diethyl-1-indanmethylamine | 1.1 g | C(CC)NC(=O)OC1=CC=C2CCC(C2=C1)CN(CC)CC | C18H28N2O2
